US05869693
5-Aminobenzocyclobutenone (8)
In a 100 mL two-neck round-bottomed flask fitted with a reflux condenser, were placed 5-nitrobenzocyclobutenone (2.50 g, 15.34 mmol), iron powder (2.50 g) and aqueous ethanol (50%, 25 mL). The mixture was heated to gentle boiling. With a good stirring, concentrated hydrochloric acid (36%, 0.15 mL) in aqueous ethanol (50%, 5 mL) was added slowly. Stirring and reflux stopped until TLC showed no more starting compound. It usually took 5-60 min. After cooling to room temperature, the reaction solution was treated with sodium carbonate powders to pH 8-9. The insoluble solids were removed by filtration and further washed with methanol. The filtrate and washing solution were combined and concentrated by distillation at 50° C. under vacuum. Upon cooling, the pure product crystallized out and then collected by suction filtration: 1.88 g (92.4%); mp 92°-93° C.; IR (KBr) 1620, 1744, 3362, 3466 cm-1 ; 1H NMR (200 MHz, CDCl3) 3.85 (s, 2H), 3.86 (s, 2H), 6.64 (s, 1H), 6.88 (d, 1H), 7.33 (d, 1H); MS (EI, m/e, relative intensity %) 133 (M+., 31.2), 105 (M+. -CO, 100) .

reactant | 5-nitrobenzocyclobutenone | 15.34 mmol, 2.50 g | [N+](=O)([O-])C=1C=CC2=C(C(C2)=O)C1 | C8H5NO3
reactant | hydrochloric acid | 0.15 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | iron | 2.50 g | [Fe] | Fe
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-Aminobenzocyclobutenone | NC=1C=CC2=C(C(C2)=O)C1 | C8H7NO
